US08981089B2
Step 3. 8-iodo-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide
In a round bottom flask maintained under argon atmosphere, ethyl 8-amino-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide (13.00 g, 45.400 mmol) was dissolved into anhydrous dimethoxyethane (800 mL); cesiun iodide (11.795 g, 45.400 mmol), bisublimated iodine (5.761 g, 22.698 mmol), copper(I) iodide (2.594 g, 13.621 mmol), and iso-amyl nitrite (9.107 mL, 68.100 mmol) were added in that order and the mixture was heated to 70° C. for 22 hours.

reactant | ethyl 8-amino-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide | 45.400 mmol, 13.00 g | CNC(=O)C1=NN(C2=C1C(C(C=1C=NC(=NC21)N)CC)(C)C)C | C16H22N6O
reactant | iodide | 45.400 mmol, 11.795 g | [I-]
reactant | iodine | 22.698 mmol, 5.761 g | II | I2
reactant | iso-amyl nitrite | 68.100 mmol, 9.107 mL | N(=O)OCCC(C)C | C5H11NO2
catalyst | copper(I) iodide | 13.621 mmol, 2.594 g | [Cu]I
solvent | dimethoxyethane | 800 mL | C(OC)COC | C4H10O2
product | 8-iodo-1,4,4-trimethyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid methylamide | CNC(=O)C1=NN(C2=C1C(CC=1C=NC(=NC21)I)(C)C)C | C14H16IN5O
